US05965775
Thus WO 96/02493, starting from 2,4-difluoroaniline, discloses a synthesis proceeding via five stages. 2,4-Difluoroaniline is first reacted with acetic anhydride, the resulting acetanilide is nitrated by means of HNO3 /H2SO4, the acetyl radical is removed and 2,4-difluoro-6-nitroaniline is obtained. By reaction of the 2,4-difluoro-6-nitroaniline with sodium nitrite, the amino group can be removed and 3,5-difluoronitrobenzene is obtained, which can be converted into 3,5-difluoroaniline by reduction.

reactant | 2,4-difluoro-6-nitroaniline | FC1=C(N)C(=CC(=C1)F)[N+](=O)[O-] | C6H4F2N2O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 3,5-difluoronitrobenzene | FC=1C=C(C=C(C1)F)[N+](=O)[O-] | C6H3F2NO2
